US05356917
3-{[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene}-2-pyrrolidinone
Under a nitrogen atmosphere, 1.52 ml of 2-pyrrolidinone was added to a solution of 32 ml of 2M magnesium methyl carbonate in DMF and 5.86 g of 3,5-di-tert-butyl-4-hydroxybenzaldehyde. The resultant mixture was stirred at reflux temperature for six days and then allowed to cool. The cooled reaction mixture was poured into 40 g of ice containing 10 ml concentrated hydrochloric acid and then extracted with chloroform. The chloroform layer was collected, filtered and the filtrate was concentrated. The resulting residue was purified by silica gel chromatography and recrystallized from ethyl acetate to give the desired titled product (21% yield), m.p. 216°-218° C.

reactant | 2-pyrrolidinone | 1.52 ml | N1C(CCC1)=O | C4H7NO
reactant | magnesium methyl carbonate | 2M, 32 ml | C(OC)([O-])=O.[Mg+2].COC([O-])=O
reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 5.86 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-{[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene}-2-pyrrolidinone | 21% yield | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(NCC1)=O | C19H27NO2
